US08133907B2
[(1R,2S)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-hydroxypropyl]carbamic acid tert-butyl ester
Using general procedure 3 with [(R)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-oxopropyl]carbamic acid tert-butyl ester (1.68 mmol; 729.00 mg) and lithium triacetoxyborohydride (8.41 mmol; 2.22 g) as the reducing agent gives the title compound.

reactant | [(R)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-oxopropyl]carbamic acid tert-butyl ester | 1.68 mmol, 729.00 mg | C(C)(C)(C)OC(N[C@@H](C(CC1=NC=CC=C1NC(C)=O)=O)CC1=C(C=CC(=C1)F)F)=O | C22H25F2N3O4
reactant | lithium triacetoxyborohydride | 8.41 mmol, 2.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Li+]
product | [(1R,2S)-3-(3-Acetylaminopyridin-2-yl)-1-(2,5-difluorobenzyl)-2-hydroxypropyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CC1=NC=CC=C1NC(C)=O)O)CC1=C(C=CC(=C1)F)F)=O | C22H27F2N3O4
